US07157447B2
2-Hydroxy-4-fluoro-benzylamine hydrochloride.
A solution of intermediate 134, 2-(benzyloxy)-4-fluorobenzonitrile, (9.03 g, 39.7 mmol) in ethanol (100 mL) and ethyl acetate (100 mL) was stirred with 10% palladium on carbon (1.67 g,) and concentrated hydrochloric acid (12 mL, 144 mmol) under a hydrogen atmosphere (60 psi) for four days. The catalyst was removed by filtration through Celite, and the filtrate was concentrated. The crude product was triturated with ether and the resulting solid collected by filtration to give the title compound (5.24 g, 74% yield) as a pale orange solid. 1H NMR (500 MHz, DMSO-D6) δ ppm: 10.81 (1H, s), 8.18 (3H, s), 7.36 (1H, t, J=7.3 Hz), 6.79 (1H, dd, J=10.8, 2.6 Hz), 6.66 (1H, dt, J=8.5, 2.3 Hz), 3.90 (2H, d, J=5.2 Hz).

reactant | 2-(benzyloxy)-4-fluorobenzonitrile | 39.7 mmol, 9.03 g | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)F | C14H10FNO
reactant | hydrochloric acid | 144 mmol, 12 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1.67 g | [Pd] | Pd
product | 2-Hydroxy-4-fluoro-benzylamine hydrochloride | 5.24 g, 74% yield | Cl.OC1=C(CN)C=CC(=C1)F | InChI=1S/C7H8FNO.ClH/c8-6-2-1-5(4-9)7(10)3-6;/h1-3,10H,4,9H2;1H
